US07829707B2
(c) 7-Bromo-1-isobutyl-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one
Benzoyl isothiocyanate (0.034 g, 0.2 mmol) was added to a solution of 4-bromo-3-(isobutylamino)-1H-pyrrole-2-carboxylic acid ethyl ester (0.050 g, 0.17 mmol) in CH2Cl2 and the resulting mixture was stirred at r.t. for 1 h before it was concentrated in vacuo. The residue was dissolved in ammonia (7M in methanol, 1.5 mL) and stirred at 70° C. for 4 h. Additional ammonia (7M in methanol, 1 mL) was added and the mixture was stirred at 80° C. for 5 h. The mixture was cooled to r.t. and the precipitated product was filtered and washed with diethyl ether. After recrystallization with methanol the title compound (0.028 g, 55%) was obtained as a white solid.

reactant | Benzoyl isothiocyanate | 0.2 mmol, 0.034 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 4-bromo-3-(isobutylamino)-1H-pyrrole-2-carboxylic acid ethyl ester | 0.17 mmol, 0.050 g | C(C)OC(=O)C=1NC=C(C1NCC(C)C)Br | C11H17BrN2O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Bromo-1-isobutyl-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one | BrC1=CNC2=C1N(C(NC2=O)=S)CC(C)C | C10H12BrN3OS
